US06008230
To a suspension of 8-(2,6-dichlorobenzoylamino)-4-vinylquinoline (150 mg) in dioxane and water was added catalytic amount of osmium tetroxide in tert-butanol under ice-cooling, and the mixture was stirred for 5 minutes. To the mixture was added sodium periodate (206 mg) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature and for 6 hours at ambient temperature. To the mixture was added saturated sodium bicarbonate solution and extracted with dichloromethane. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (dichloromethane-n-hexane) to give 8-(2,6-dichlorobenzoylamino)-4-formylquinoline (85 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-vinylquinoline | 150 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)C=C)C(=CC=C1)Cl | C18H12Cl2N2O
reactant | sodium periodate | 206 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 8-(2,6-dichlorobenzoylamino)-4-formylquinoline | 85 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)C=O)C(=CC=C1)Cl | C17H10Cl2N2O2
